US06696464B2
To a stirred, cold (0° C.) solution of 5-(2-Methyl-4-phenyl-oxazol-5-yl)-pyridin-2-yl-hydrazine in 0.5 mL of dichloromethane and 0.3 mL of DMF and 0.325 mL of N,N-diisopropylethylamine was added 0.02 mL of isobutyryl chloride. After 5 minutes an additional 0.005 mL of isobutyryl chloride was added and the reaction was quenched a minute later with water. The mixture was extracted with dichloromethane (3×), washed with water (2×), brine (1×), dried (sodium sulfate), filtered, and the filtrate was concentrated to a dark orange oil. This oil was purified by flash chromatography (eluting with 5:1 ethyl acetate/hexanes) to give 23 mg of isobutyric acid N′-[5-(2-methyl-4-phenyl-oxazol-5-yl)-pyridin-2-yl]-hydrazide as an orange solid.

reactant | 5-(2-Methyl-4-phenyl-oxazol-5-yl)-pyridin-2-yl-hydrazine | CC=1OC(=C(N1)C1=CC=CC=C1)C=1C=CC(=NC1)NN | C15H14N4O
reactant | isobutyryl chloride | 0.02 mL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | isobutyryl chloride | 0.005 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | N,N-diisopropylethylamine | 0.325 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | isobutyric acid N′-[5-(2-methyl-4-phenyl-oxazol-5-yl)-pyridin-2-yl]-hydrazide | 23 mg | CC=1OC(=C(N1)C1=CC=CC=C1)C=1C=CC(=NC1)NNC(C(C)C)=O | C19H20N4O2
